US07320994B2
1-[1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-phenyl)-prop-2-yn-1-ol
Dissolve 1-chloro-2-ethynyl-benzene (22.1 g, 162 mmol) in THF (300 mL) and slowly add methyl magnesium bromide (50 mL, 3.0 M in ether). Stir solution at RT for 40 min, then add a solution of 1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazole-4-carbaldehyde (29.6 g, 82.8 mmol) in THF (160 ml). Stir resulting solution at RT for 2 h then pour into cold water (500 mL) and 1N HCl (150 mL) and extract with EtOAc (3×200 mL). Combine the organic phases and wash with saturated NaHCO3 (200 mL) and brine (200 mL) then dry, filter, and concentrate. Purify the crude material by triturating with 30% ether/hexanes to give the title compound. MS (IS) 494.0 (M+1), MS (ES−) 492.0 (M−1); 1H NMR (400 MHz, CDCl3) δ 7.87 (s, 1H), 7.79 (s, 2H), 7.47 (dd, 1H, J=1.9, 7.3), 7.37 (dd, 1H, J=1.4, 7.9), 7.25 (dt, 1H, J=2.0, 7.3), 7.19 (dt, 1H, J=1.5, 7.3), 5.92 (d, 1H, J=6.7), 5.62 (s, 2H), 2.79 (d, 1H, J=6.4).

reactant | 1-chloro-2-ethynyl-benzene | 162 mmol, 22.1 g | ClC1=C(C=CC=C1)C#C | C8H5Cl
reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazole-4-carbaldehyde | 82.8 mmol, 29.6 g | FC(C=1C=C(CN2N=NC(=C2Cl)C=O)C=C(C1)C(F)(F)F)(F)F | C12H6ClF6N3O
reactant | water | 500 mL | O | H2O
reactant | HCl | 1N, 150 mL | Cl | ClH
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | methyl magnesium bromide | 3.0 M, 50 mL | C[Mg]Br
solvent | THF | 160 ml | C1CCOC1 | C4H8O
product | 1-[1-(3,5-bis-trifluoromethyl-benzyl)-5-chloro-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-phenyl)-prop-2-yn-1-ol | FC(C=1C=C(CN2N=NC(=C2Cl)C(C#CC2=C(C=CC=C2)Cl)O)C=C(C1)C(F)(F)F)(F)F | C20H11Cl2F6N3O
